data/oMe_Silver.jsonl
{"reaction_id": "NR-330_1-OC(C)C_2-C#N_3-OC_4-Br_5-C(F)(F)F_6-F_7-C1CCCCC1_8-c1ccccc1","level": "medium","name": "Rauhut-Currier Reaction","reactants_smiles": ["OC(C)CC(=O)C=C(C#N)OC","C1CCCCC1C(=O)C(F)=C(C(F)(F)F)Br","P(c1ccccc1)(c1ccccc1)c1ccccc1"],"products_smiles": ["OC(C)CC(=O)C(=C(C#N)OC)C(Br)(C(F)(F)F)C(F)C(=O)C1CCCCC1"],"conditions": "Nucleophilic Catalyst (e.g., P(n-Bu)3)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(C)CC([O-])=CC(C#N)(OC)[P+](c1ccccc1)(c1ccccc1)c1ccccc1","step_weight": 0,"rationale": "The phosphine's lone pair attacks the β-position of the electron-deficient alkene, favored by conjugation with the carbonyl, forming a zwitterionic intermediate stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(C)CC(=O)C(C(C#N)(OC)([P+](c1ccccc1)(c1ccccc1)c1ccccc1))C(Br)(C(F)(F)F)C(F)=C([O-])C1CCCCC1","step_weight": 0,"rationale": "The nucleophilic carbon in the phosphonium enolate intermediate attacks the β-position of the second activated alkene, driven by its strong electron-withdrawing carbonyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C)CC([O-])=C(C(C#N)(OC)([P+](c1ccccc1)(c1ccccc1)c1ccccc1))C(Br)(C(F)(F)F)C(F)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Proton transfer occurs to stabilize the alkoxide and generate a neutral intermediate, facilitated by the basicity of the alkoxide and the acidity of nearby protons."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C)CC(=O)C(=C(C#N)OC)C(Br)(C(F)(F)F)C(F)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Elimination of the phosphine regenerates the catalyst, driven by formation of a conjugated enone system, which is thermodynamically favored due to extended π-delocalization."}],"description": "A nucleophilic phosphine catalyst activates an electron-deficient alkene toward conjugate addition, enabling C–C bond formation between two Michael acceptors. Subsequent proton transfer and elimination regenerate the catalyst, yielding the conjugated enone product under mild conditions with high atom economy."}
{"reaction_id": "NR-120_1-c1sccc1C_2-C1CC1_3-CC=C(C)C","name": "Julia-Kociensky Olefination","level": "medium","reactants_smiles": ["C(c1sccc1C)(C1CC1)S(=O)(=O)c1sc2ccccc2n1","C(CC=C(C)C)=O"],"products_smiles": ["C(CC=C(C)C)=C(c1sccc1C)C1CC1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](c1sccc1C)(C1CC1)S(=O)(=O)c1sc2ccccc2n1","rationale": "The strong base deprotonates the α-position to the sulfone, as the negative charge is stabilized by resonance with the electron-withdrawing sulfone group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC=C(C)C)([O-])C(c1sccc1C)(C1CC1)S(=O)(=O)c1sc2ccccc2n1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, favored by polarization of the C=O bond and minimal steric hindrance from CC=C(C)C."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=C2C(=C1)[N-]C3(S2)[S](=O)(c(C(O3)(CC=C(C)C))(c1sccc1C)C1CC1)=O","rationale": "Intramolecular attack by the alkoxide on the heteroaryl ring occurs due to proximity and the electrophilicity of the activated heteroaryl sulfur, forming a cyclic intermediate."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "c1ccc2c(c1)n=c(s2)OC(CC=C(C)C)C(c1sccc1C)(C1CC1)[S](=O)[O-]","rationale": "Heterolytic cleavage of the S–C bond is driven by the stability of the leaving heteroaryl sulfinate anion and relief of ring strain."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC=C(C)C)=C(c1sccc1C)C1CC1","rationale": "Base-induced elimination occurs as the β-alkoxy group departs with the sulfinate, forming the thermodynamically favored alkene."}],"description": "Under basic conditions, the sulfone-stabilized carbanion adds to the carbonyl, forming a β-alkoxysulfone intermediate. Subsequent intramolecular rearrangement and fragmentation release the heteroaryl sulfone, driving elimination to yield the alkene via the Julia–Kocienski olefination pathway."}
